* Schematics Netlist *



R_RL         0 $N_0001  8  
V_VEE         0 $N_0002 12v
V_VCC         $N_0003 0 12v
R_RC1         $N_0004 $N_0003  75  
R_RC2         $N_0002 $N_0005  75  
R_Re2         $N_0006 $N_0001  0.5  
R_Re1         $N_0001 $N_0007  0.5  
Q_Q1         $N_0003 $N_0004 $N_0007 TIP41-X
Q_Q2         $N_0002 $N_0005 $N_0006 TIP42-X
Q_Q3         $N_0002 $N_0008 $N_0004 BC179B 
Q_Q4         $N_0003 $N_0008 $N_0005 BC107A 
V_vin         $N_0009 0  
+SIN 0v 9.3 1k 0 0 0
R_Rb1         $N_0008 $N_0003  600  
R_Rb2         $N_0002 $N_0008  600  
C_C3         $N_0009 $N_0008  1  
