* Schematics Netlist *



Q_Q6         $N_0002 $N_0001 0 BC107A 
Q_Q5         $N_0001 $N_0001 0 BC107A 
Q_Q4         $N_0003 $N_0003 $N_0004 BC177 
Q_Q3         $N_0005 $N_0003 $N_0004 BC177 
M_M1         $N_0007 $N_0006 $N_0002 $N_0002 M2N7000
R_Rb1         $N_0006 $N_0004  400M  
R_Rb2         0 $N_0006  600M  
R_Rb3         $N_0008 $N_0004  400M  
R_Rb4         0 $N_0008  600M  
M_M2         $N_0009 $N_0008 $N_0002 $N_0002 M2N7000
V_V1         $N_0004 0 12v
Q_Q1         $N_0010 $N_0007 $N_0005 BC177 
Q_Q2         $N_0011 $N_0009 $N_0005 BC177 
Q_Q9         $N_0013 $N_0012 $N_0014 BC107A 
R_RL         0 $N_0015  8  
V_VCC         $N_0013 0 12v
V_VEE         0 $N_0016 12v
R_Re3         $N_0017 $N_0013  75  
R_Re4         $N_0016 $N_0014  75  
R_R1         $N_0001 $N_0003  750  
R_Rc2         0 $N_0011  950  
R_Rc1         0 $N_0010  950  
R_Rd2         $N_0009 $N_0004  110  
R_Rd1         $N_0007 $N_0004  110  
E_DIFF3         $N_0018 0 VALUE {V($N_0010,$N_0011)}
C_C6         $N_0018 $N_0012  1  
R_Re1         $N_0015 $N_0019  1.5  
R_Re2         $N_0020 $N_0015  1.5  
Q_Q20         $N_0016 $N_0012 $N_0017 BC179B 
R_Rb42         $N_0016 $N_0012  600  
Q_Q10         $N_0013 $N_0017 $N_0019 TIP41-X
Q_Q7         $N_0016 $N_0014 $N_0020 TIP42-X
R_Rb32         $N_0012 $N_0013  600  
V_V3         $N_0006 $N_0008  
+SIN 0 19mv 1khz 0 0 0
